US05773530
A mixture of 1-hydroxy-5-oxo-5,6,7,8-tetrahydronaphthalene (10 g), potassium carbonate (9.4 g), methyl bromoacetate (6.2 ml) in acetonitrile (250 ml) was refluxed with stirring for 3.5 hours. The mixture was filtered off and the filtrate was evaporated in vacuo. The residue was partitioned between ethyl acetate and water. The separated organic layer was washed with 1N-hydrochloric acid, 1N-sodium hydroxide, brine, dried over magnesium sulfate and evaporated in vacuo. The residue was suspended in n-hexane and then the solid was collected by filtration to give 1-methoxycarbonylmethoxy-5-oxo-5,6,7,8-tetrahydronaphthalene (13.90 g).

reactant | 1-hydroxy-5-oxo-5,6,7,8-tetrahydronaphthalene | 10 g | OC1=CC=CC=2C(CCCC12)=O | C10H10O2
reactant | potassium carbonate | 9.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 6.2 ml | BrCC(=O)OC | C3H5BrO2
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 1-methoxycarbonylmethoxy-5-oxo-5,6,7,8-tetrahydronaphthalene | 13.90 g | COC(=O)COC1=CC=CC=2C(CCCC12)=O | C13H14O4
